US06403639B1
To 36 g of 3-t-butyl-4-hydroxyanisole dissolved in 100 ml of anhydrous acetic acid was added a catalytic amount of concentrated sulfuric acid and the mixture was stirred at room temperature for 6 days. After the reaction solution was concentrated under reduced pressure, the concentrate was dissolved in 200 ml of acetonitrile and combined with 60 g of sodium iodide. To the resulting solution was added dropwise 51 ml of trimethylsilyl chloride at room temperature and then the mixture was heated under reflux for 3 hours. The reaction mixture was allowed to attain room temperature, and then concentrated under reduced pressure, combined with water and extracted with ethyl acetate. The extracted layers were washed with saturated brine, then dried over anhydrous magnesium sulfate and concentrated to give 47.0 g of 4-acetoxy-3-t-butylphenol as a colorless oil (quantitative).

reactant | 3-t-butyl-4-hydroxyanisole | 36 g | C(C)(C)(C)C=1C=C(C=CC1O)OC | C11H16O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-acetoxy-3-t-butylphenol | 47.0 g | C(C)(=O)OC1=C(C=C(C=C1)O)C(C)(C)C | C12H16O3
